US03951952
c. N,N'-Diethyl-carboethoxyacetamidine Hydrochloride
To a solution of 3,46 g. (0.02 mole) of methyl N-ethyl-carbethoxyacetimidate in 30 ml. of diethyl ether is added 900 mg. (0.02 mole) of ethylamine and the reaction mixture allowed to stir several hours at room temperature. Anhydrous hydrogen chloride gas is slowly introduced into the reaction mixture until the formation of the amidine hydrochloride ceases. The product is filtered and dried in vacuo.

reactant | methyl N-ethyl-carbethoxyacetimidate | 0.02 mole | C(C)N=C(CC(=O)OCC)OC | C8H15NO3
reactant | ethylamine | 0.02 mole | C(C)N | C2H7N
reactant | hydrogen chloride | Cl | ClH
solvent | diethyl ether | C(C)OCC | C4H10O
product | N,N'-Diethyl-carboethoxyacetamidine Hydrochloride | Cl.C(C)NC(CC(=O)OCC)=NCC | InChI=1S/C9H18N2O2.ClH/c1-4-10-8(11-5-2)7-9(12)13-6-3;/h4-7H2,1-3H3,(H,10,11);1H
